US07989461B2
5-Amino-6-methylisoquinolin-1(2H)-one (1.00 g, 5.74 mmol) was dissolved in 75% sulfuric acid (18.2 ml). Mixture cooled to 0° C. and treated with a solution of sodium nitrite (0.416 g, 6.03 mmol) in concentrated sulfuric acid (2.28 ml). After the mixture had been stirred for 1 hour at this temperature, water (36.0 ml) was added and the mixture warmed to 65° C. overnight. The mixture was then diluted with 150 mL water. The resulting precipitate was filtered and washed with an additional portion of water and Et2O. A brown solid was collected: 5-hydroxy-6-methylisoquinolin-1(2H)-one (0.860 g, 85.5% yield). MS (M+H)+ 176.

reactant | 5-Amino-6-methylisoquinolin-1(2H)-one | 5.74 mmol, 1.00 g | NC1=C2C=CNC(C2=CC=C1C)=O | C10H10N2O
reactant | sodium nitrite | 6.03 mmol, 0.416 g | N(=O)[O-].[Na+]
solvent | sulfuric acid | 18.2 ml | S(O)(O)(=O)=O | H2O4S
solvent | sulfuric acid | 2.28 ml | S(O)(O)(=O)=O | H2O4S
solvent | water | 150 mL | O | H2O
solvent | water | 36.0 ml | O | H2O
product | 5-hydroxy-6-methylisoquinolin-1(2H)-one | 0.860 g, 85.5% yield | OC1=C2C=CNC(C2=CC=C1C)=O | C10H9NO2
